US09120749B2
5-{4-[trans-4-Aminocyclohexylamino]-3-(cyclopropanecarbonyl)quinolin-6-yl}pyrimidine-2-carbonitrile
Following general procedure A-2, tert-butyl trans-4-[6-(2-cyanopyrimidin-5-yl)-3-(cyclopropane carbonyl)quinolin-4-ylamino]cyclohexylcarbamate (52 mg, 0.100 mmol) was reacted with TFA (1 mL) to afford the desired product (13.7 mg, 33%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.33 (s, 2H), 9.19 (s, 1H), 8.60 (d, J=1.9 Hz, 1H), 8.20 (dd, J=8.7, 2.0 Hz, 1H), 8.05 (d, J=8.7 Hz, 1H), 4.25-4.16 (m, 1H), 3.15-3.07 (m, 1H), 2.90-2.81 (m, 1H), 2.34 (d, J=13.1 Hz, 2H), 2.12 (d, J=11.8 Hz, 2H), 1.69-1.59 (m, 2H), 1.55-1.45 (m, 2H), 1.24-1.19 (m, 2H), 1.15-1.10 (m, 2H); ESI MS m/z 413 [C24H24N6O+H]+; HPLC 94.9% (AUC), tR=9.67 min.

reactant | tert-butyl trans-4-[6-(2-cyanopyrimidin-5-yl)-3-(cyclopropane carbonyl)quinolin-4-ylamino]cyclohexylcarbamate | 0.100 mmol, 52 mg | C(#N)C1=NC=C(C=N1)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C29H32N6O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-{4-[trans-4-Aminocyclohexylamino]-3-(cyclopropanecarbonyl)quinolin-6-yl}pyrimidine-2-carbonitrile | 13.7 mg, 33% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C=1C=NC(=NC1)C#N)C(=O)C1CC1 | C24H24N6O
